US06342598B1
A) Phosphoric acid mono(2-aminoethyl) monohexadecyl ester [C.A.S. Registry Number 57303-02-3]
A solution of hexadecyl alcohol (26.2 g; 108 mmol) in THF (100 mL) was added dropwise in 30 min to a solution of POCl3 (16.56 g; 108 mmol) and Et3N (12.35 g; 122 mmol) in THF (200 mL) at 0° C. After 5 min a solution of ethanolamine (7.2 g; 118 mmol) and Et3N (43.51 g; 430 mmol) in THF (60 mL) was added dropwise in 60 min. at 0° C. The reaction mixture was allowed to reach room temperature in 3 h; then it was heated at 40 ° C. and HCl 10% (100 mL) was added. After 2 h the mixture was cooled to room temperature and addition of H2O (200 mL) afforded a precipitate that was filtered, washed with H2O and dried under reduced pressure to give the desired product (33.4 g; 91 mmol). Yield 85%. K.F.: 0.53%. The 1H-NMR, 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | hexadecyl alcohol | 108 mmol, 26.2 g | C(CCCCCCCCCCCCCCC)O | C16H34O
reactant | POCl3 | 108 mmol, 16.56 g | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Et3N | 122 mmol, 12.35 g | CCN(CC)CC | C6H15N
reactant | ethanolamine | 118 mmol, 7.2 g | C(O)CN | C2H7NO
reactant | Et3N | 430 mmol, 43.51 g | CCN(CC)CC | C6H15N
reactant | HCl | 100 mL | Cl | ClH
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | THF | 60 mL | C1CCOC1 | C4H8O
solvent | H2O | 200 mL | O | H2O
product | Phosphoric acid mono(2-aminoethyl) monohexadecyl ester | 91 mmol, 33.4 g, Yield 85% | C(CCCCCCCCCCCCCCC)OP(OCCN)(O)=O | C18H40NO4P
